US06593330B2
Step 1: 2-Chloro-6-(1,2,3,4-tetrahydro-1-naphthalenyloxy)pyrazine
The title compound was prepared according to the procedure of example 4, step 1 starting from 2,6-dichloropyrazine (444 mg, 3.00 mmol) and 1,2,3,4-tetrahydro-1-naphthol (488 mg, 3.30 mmol) and NaH (55% in oil, 144 mg, 3.30 mmol). The crude product (0.86 g) was used directly in the next step. MS m/z 261 (M+H)+.

reactant | 2,6-dichloropyrazine | 3.00 mmol, 444 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 1,2,3,4-tetrahydro-1-naphthol | 3.30 mmol, 488 mg | C1(CCCC2=CC=CC=C12)O | C10H12O
reactant | NaH | 3.30 mmol, 144 mg | [H-].[Na+]
product | 2-Chloro-6-(1,2,3,4-tetrahydro-1-naphthalenyloxy)pyrazine | ClC1=NC(=CN=C1)OC1CCCC2=CC=CC=C12 | C14H13ClN2O
